US08754220B2
To a solution of (2-chloropyridin-4-yl)methanol (0.307 g, 2.14 mmol) in 20 mL of DMF at 0° C. under an atmosphere of nitrogen was added tert-butyldimethylchlorosilane (0.355 g, 2.35 mol) and imidazole (0.160 g, 2.35 mmol). After 1 h, the mixture was diluted with water, washed 3× with water, dried over sodium sulfate, filtered, and concentrated in vacuo. The resultant residue was subjected to silica gel chromatography eluting with 0-15% EtOAc in hexanes to provide 4-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2-chloropyridine that gave a mass ion (ES+) of 258.1 for [M+H]+.

reactant | (2-chloropyridin-4-yl)methanol | 2.14 mmol, 0.307 g | ClC1=NC=CC(=C1)CO | C6H6ClNO
reactant | tert-butyldimethylchlorosilane | 2.35 mol, 0.355 g | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | imidazole | 2.35 mmol, 0.160 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-({[tert-butyl(dimethyl)silyl]oxy}methyl)-2-chloropyridine | [Si](C)(C)(C(C)(C)C)OCC1=CC(=NC=C1)Cl | C12H20ClNOSi
